US07514435B2
A solution of 5-fluoro-2-nitrophenol (1.5 g, 9.55 mmole) in acetonitrile (100 mL) under a nitrogen atmosphere was treated with potassium carbonate (4.5 g, 32.6 mmole) and 1,2-dibromoethane (16.0 mL, 186 mmole), The reaction mixture was heated to 70° C. for 40 hours. The reaction was then filtered and concentrated. The crude material was purified by flash chromatography (SiO2, 20% ethyl acetate/hexane) to give 2-(2-bromoethoxy)-4-fluoro-1-nitrobenzene (2.5 g, 98%). 1HNMR (CDCl3) δ 7.97 (m, 1H), 6.79 (m, 2H), 4.40 (t, 2H, J=8.0 Hz), 3.69 (t, 2H, J =8.0 Hz).

reactant | 5-fluoro-2-nitrophenol | 9.55 mmole, 1.5 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | potassium carbonate | 32.6 mmole, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 186 mmole, 16.0 mL | BrCCBr | C2H4Br2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(2-bromoethoxy)-4-fluoro-1-nitrobenzene | 2.5 g, 98% | BrCCOC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7BrFNO3
